US07256198B2
Step 5: 8-{[(2S)-2-(Hydroxymethyl)pyrrolidin-1-yl]sulfonyl}-3,3-dimethyl-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one
To neat 8′-({(2S)-2-[(benzyloxy)methyl]pyrrolidin-1-yl}sulfonyl)-3′,3′-dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indole] (0.500 g, 0.951 mmol) was added methane sulfonic acid (24 mL) all at one time at room temperature. After 5 hr the reaction mixture was poured onto ice and basified to pH 11.2 by the drop-wise addition of concentrated NH4OH keeping the temperature below 5° C. The reaction was extracted with EtOAc (5×). The combined organic extracts were dried over Na2SO4, filtered and concentrated. The crude product was purified on Biotage KP silica gel eluting with CH2Cl2/CH3OH/NH4OH (94.75/3.5/1.75) to give the title compound as a bright orange solid (0.28 g, 68% yield). A 100 mg sample was dried at 63° C. in vacuo to give the analytically pure sample. Anal. Calc'd for; C18H23N3O4S: C, 57.28; H, 6.14; N, 11.13. Found: C, 57.05; H, 5.99; N, 10.79. NMR (400 MHz, DMSO-d6): consistent. MS: (ES+) m/z 378 [M+H]. m.p.: 91-96° C. dec.

reactant | 8′-({(2S)-2-[(benzyloxy)methyl]pyrrolidin-1-yl}sulfonyl)-3′,3′-dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indole] | 0.951 mmol, 0.500 g | C(C1=CC=CC=C1)OC[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C3(C=4N(C2C=C1)CC(CN4)(C)C)OCCCO3 | C28H35N3O5S
reactant | methane sulfonic acid | 24 mL | CS(=O)(=O)O | CH4O3S
reactant | NH4OH | [NH4+].[OH-]
product | 8-{[(2S)-2-(Hydroxymethyl)pyrrolidin-1-yl]sulfonyl}-3,3-dimethyl-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | 0.28 g, 68% yield | OC[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C(C=3N(C2C=C1)CC(CN3)(C)C)=O | C18H23N3O4S
